US08227492B2
Step 2: Preparation of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-[2-hydroxy-ethyl]sulfoximide
To a stirring solution of S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-(ethoxycarbonyl methyl)sulfoximide (1.3 g, 0.00237 mol) in DMSO (4 mL) was added Sodium borohydride (360 mg, 0.00948 mol) at 60° C. in several lots. Reaction mixture was stirred at same temperature for 5 hr. Subsequent work up and column purification (100-200 mesh silica gel, 2% methanol in chloroform) gave 400 mg of titled product in 80% yield.

reactant | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-(ethoxycarbonyl methyl)sulfoximide | 0.00237 mol, 1.3 g | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=NCC(=O)OCC)C | C24H22Cl2N4O5S
reactant | Sodium borohydride | 0.00948 mol, 360 mg | [BH4-].[Na+]
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | S-[4-(N-{2-[N-(5-chloro(2-pyridyl))carbamoyl]-4-chlorophenyl}carbamoyl)phenyl]-S-methyl-N-[2-hydroxy-ethyl]sulfoximide | 400 mg, 80% yield | ClC=1C=CC(=NC1)NC(=O)C1=C(C=CC(=C1)Cl)NC(=O)C1=CC=C(C=C1)S(=O)(=NCCO)C | C22H20Cl2N4O4S
